US07163936B2
Sodium hydride (60 w/w %, 13.3 mg, 0.33 mmol) was added at 0–5° C. to a solution of allyl (2S)-2-(hydroxymethyl)-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate (purity 70%, 139 mg, 0.33 mmol) in a mixture of THF (11.0 ml) and DMF(0.5 ml) and the mixture was stirred for 10 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 1.27 g, 0.67 mmol) and the solution was allowed to stand in a refrigerator for 16 hours. To the reaction solution was added ice water and the solution was adjusted to pH 3 at 0–5° C. with 1N hydrochloric acid. After the mixture was stirred for 30 minutes, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with thin layer chromatography (10% methanol in chloroform) to give allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (87 mg, 46%).

reactant | Sodium hydride | 0.33 mmol, 13.3 mg | [H-].[Na+]
reactant | allyl (2S)-2-(hydroxymethyl)-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.33 mmol, 139 mg | OC[C@H]1N(CC=C(C1)C=1N=C(SC1)S)C(=O)OCC=C | C13H16N2O3S2
reactant | allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)OC1=CC=CC=C1 | C28H34NO7PSi
reactant | acetonitrile | 0.67 mmol, 1.27 g | C(C)#N | C2H3N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 11.0 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 87 mg, 46% | C(C=C)OC(=O)N1[C@@H](CC(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CO | C26H31N3O7S2
